US08975406B2
(R)—N-(4-(4-(pyrrolidin-3-yloxy)phenyl)pyrazolo[1,5-a]pyridin-2-yl)cyclopropanecarboxamide (340 mg, 0.94 mmol) and triethylamine (0.16 ml, 1.13 mmol) were suspended in DCM (10 ml) and stirred at 0° C. under N2. Methane sulfonylchloride (77 μL, 0.99 mmol) was added slowly and the resulting solution was allowed to warm to room temperature over 4 h. The reaction mixture was washed with sat. NaHCO3 solution (aq.) and the aqueous phase extracted with DCM. The combined organics were dried (MgSO4), filtered, concentrated in vacuo and purified by preparative HPLC to give (R)—N-(4-(4-((1-(methylsulfonyl)pyrrolidin-3-yl)oxy)phenyl)pyrazolo[1,5-a]pyridin-2-yl)cyclopropanecarboxamide. (126 mg, 30% yield).

reactant | (R)—N-(4-(4-(pyrrolidin-3-yloxy)phenyl)pyrazolo[1,5-a]pyridin-2-yl)cyclopropanecarboxamide | 0.94 mmol, 340 mg | N1C[C@@H](CC1)OC1=CC=C(C=C1)C=1C=2N(C=CC1)N=C(C2)NC(=O)C2CC2 | C21H22N4O2
reactant | triethylamine | 1.13 mmol, 0.16 ml | C(C)N(CC)CC | C6H15N
reactant | Methane sulfonylchloride | 0.99 mmol, 77 μL | CS(=O)(=O)Cl | CH3ClO2S
solvent | DCM | 10 ml | C(Cl)Cl | CH2Cl2
product | (R)—N-(4-(4-((1-(methylsulfonyl)pyrrolidin-3-yl)oxy)phenyl)pyrazolo[1,5-a]pyridin-2-yl)cyclopropanecarboxamide | 30% yield | CS(=O)(=O)N1C[C@@H](CC1)OC1=CC=C(C=C1)C=1C=2N(C=CC1)N=C(C2)NC(=O)C2CC2 | C22H24N4O4S
